US08466282B2
1-[2-(cyclopropyloxy)ethyl]-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-1H-benzimidazole-2-carboxamide dihydrochloride
To a solution of tert-butyl (3S,5R)-3-[({1-[2-(ethenyloxy)ethyl]-1H-benzimidazol-2-yl}carbonyl)(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (323 mg) and 1M diethylzinc-hexane solution (2.5 ml) in dichloromethane (5 ml) was added dropwise diiodomethane (443 μl) at room temperature over 5 min, and the mixture was stirred at room temperature for 3 hr. The reaction mixture was diluted with 1M hydrochloric acid, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was dissolved in methanol (5 ml), 4M hydrogen chloride-ethyl acetate (5 ml) was added and the mixture was stirred at room temperature for 5 hr. The reaction mixture was concentrated, and the residue was subjected to reversed-phase preparative HPLC and the eluted fraction was concentrated under reduced pressure. The residue was diluted with aqueous sodium bicarbonate, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. 4M Hydrogen chloride-ethyl acetate (1 ml) was added and the mixture was stirred for 5 min. The solvent was evaporated under reduced pressure to give the object product (35 mg).

reactant | tert-butyl (3S,5R)-3-[({1-[2-(ethenyloxy)ethyl]-1H-benzimidazol-2-yl}carbonyl)(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 323 mg | C(=C)OCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CC(C)C | C31H45N5O6
reactant | diethylzinc hexane | 1M, 2.5 ml | C(C)[Zn]CC.CCCCCC
reactant | diiodomethane | 443 μl | ICI | CH2I2
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | hydrochloric acid | 1M | Cl | ClH
product | 1-[2-(cyclopropyloxy)ethyl]-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-1H-benzimidazole-2-carboxamide dihydrochloride | 35 mg | Cl.Cl.C1(CC1)OCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CNC[C@@H](C2)C(=O)N2CCOCC2)CC(C)C | InChI=1S/C27H39N5O4.2ClH/c1-19(2)18-32(21-15-20(16-28-17-21)26(33)30-9-12-35-13-10-30)27(34)25-29-23-5-3-4-6-24(23)31(25)11-14-36-22-7-8-22;;/h3-6,19-22,28H,7-18H2,1-2H3;2*1H/t20-,21+;;/m1../s1
